### PR TITLE
feat(CategoryTheory/Enriched/Limits): Add conical limits for enriched ordinary categories

### PR DESCRIPTION
**Pull request by joneugster**
Add the definition `CategoryTheory.Enriched.IsConicalLimit` of conical limits in enriched ordinary categories.

Co-authored-by: Emily Riehl <eriehl@jhu.edu>
Co-authored-by: Dagur Asgeirsson <dagurtomas@gmail.com>

---

- [x] depends on: #20903
- next PR: #20907
- next PR: #20959
- full content: #20967
- source: emilyriehl/infinity-cosmos#78

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+-/
+
+universe v₁ u₁ w v' v u u'
+
+namespace CategoryTheory.Enriched
+
+open Limits
+
+variable {J : Type u₁} [Category.{v₁} J]
+variable (V : outParam <| Type u') [Category.{v'} V] [MonoidalCategory V]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean:24]: I think `V` should be an explicit parameter to `IsConicalLimit`. (This is what we have in the rest of the enriched category API, and I believe it should not change.)
Could you also add references to the mathematical literature? and also some minimal API (like constructors which under suitable assumptions may take as input only the `isLimit`, or only the `isConicalLimit` fields?)

Comment (joneugster) [reply Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean]: You are right, `outParam` is not needed here, only in some `class`es in a later PR. Restructrued the file.

I don't think I understand how `HasLimitsOfShape J V` could be dropped?

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean [hunk 2]
```diff
@@ -0,0 +1,152 @@
...
+    have : HasLimit F := ⟨c, hc⟩
+    apply (config := { allowSynthFailures := true }) preservesLimit_of_isIso_post
+    have h : limit.post F (eCoyoneda V X) =
+      ((eCoyoneda V X).map ((limit.isLimit F).conePointUniqueUpToIso hc).hom) ≫
+        limitComparison V c X := by
+      apply limit.hom_ext
+      intro j
+      simp [limitComparison, ← eHomWhiskerLeft_comp]
+    rw [h]
+    infer_instance
```
Comment (gio256) [inline Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:124]:
```suggestion
    suffices limit.post F (eCoyoneda V X) =
      ((eCoyoneda V X).map ((limit.isLimit F).conePointUniqueUpToIso hc).hom) ≫
        limitComparison V c X from this ▸ inferInstance
    apply limit.hom_ext
    simp [limitComparison, ← eHomWhiskerLeft_comp]
```
Others might have the opposite preference, though.

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean [hunk 3]
```diff
@@ -0,0 +1,152 @@
...
+/-- The canonical comparison map with the limit in `V`. -/
+noncomputable def limitComparison : (X ⟶[V] c.pt) ⟶ limit (F ⋙ eCoyoneda V X) :=
+  limit.lift _ <| (eCoyoneda V X).mapCone c
+
+lemma limitComparison_eq_conePointUniqueUpToIso (h : IsConicalLimit V c)
+    [HasLimit (F ⋙ eCoyoneda V X)] :
+    limitComparison V c X =
+    ((h.isConicalLimit X).conePointUniqueUpToIso (limit.isLimit _)).hom := by
+  apply limit.hom_ext
+  simp [limitComparison]
```
Comment (gio256) [inline Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:92]:
```suggestion
    ((h.isConicalLimit X).conePointUniqueUpToIso (limit.isLimit _)).hom :=
  limit.hom_ext (fun _ ↦ rfl)
```

File: Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean]: We have a notion of preservation of colimits/limits which does not assume the existence of colimits/limits (https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Preserves/Basic.html#CategoryTheory.Limits.PreservesLimit). Then, if `eCoyoneda` preserves certains limits, we may obtain `isConicalLimit` from `isLimit`.

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean [hunk 4]
```diff
@@ -0,0 +1,152 @@
...
+namespace IsConicalLimit
+
+variable {V} {c}
+
+/-- Transport evidence that a cone is a `V`-enriched limit cone across an isomorphism of cones. -/
+noncomputable def ofIso {r₁ r₂ : Cone F} (h : IsConicalLimit V r₁) (i : r₁ ≅ r₂) :
+    IsConicalLimit V r₂ where
+  isLimit := h.isLimit.ofIsoLimit i
+  isConicalLimit X := h.isConicalLimit X |>.ofIsoLimit
+    { hom := Functor.mapConeMorphism _ i.hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:65]: This suggests there is a missing API: `Functor.mapConeIso` in `CategoryTheory.Limits.Cones`.

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean [hunk 5]
```diff
@@ -0,0 +1,152 @@
...
+(or *conical limit*) if for every `X : C`, the cone obtained by applying the coyoneda
+functor `(X ⟶[V] -)` to `c` is a limit cone in `V`.
+-/
+structure IsConicalLimit where
+  /-- A conical limit cone is a limit cone. -/
+  isLimit : IsLimit c
+  /--
+  The cone obtained by applying the coyoneda functor `(X ⟶[V] -)` to `c` is a limit cone in `V`.
+  -/
+  isConicalLimit (X : C) : IsLimit <| (eCoyoneda V X).mapCone c
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:54]: In order to get better integration with mathlib (and possibly avoid some duplication of API between limits and conical limits), I would suggest the following design:
```lean
class HasConicalLimit (F : J ⥤ C) extends HasLimit F : Prop where
  preservesLimit_eCoyoneda (X : C) : PreservesLimit F (eCoyoneda V X) := by infer_instance

attribute [instance] HasConicalLimit.preservesLimit_eCoyoneda
```
This would make the whole limit API available under the stronger assumption `HasConicalLimit`.
I think that the `IsConicalLimit` structure should play a much smaller role: basically, it should be used only as a structure that can be fed to a constructor for `HasConicalLimit`:
```lean
structure IsConicalLimit extends IsLimit c where
  isConicalLimit (X : C) : IsLimit <| (eCoyoneda V X).mapCone c

variable {c} in
lemma IsConicalLimit.hasConicalLimit (h : IsConicalLimit V c) :
    HasConicalLimit V F where
  exists_limit := ⟨_, h.toIsLimit⟩
  preservesLimit_eCoyoneda X := preservesLimit_of_preserves_limit_cone
    h.toIsLimit (h.isConicalLimit X)
```

With this, some basic API results can be obtained easily:
```
lemma hasConicalLimit.of_iso {F' : J ⥤ C} (e : F ≅ F') [HasConicalLimit V F] :
    HasConicalLimit V F' where
  toHasLimit := hasLimitOfIso e
  preservesLimit_eCoyoneda X :=
    preservesLimit_of_iso_diagram (eCoyoneda V X) e
```

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean [hunk 6]
```diff
@@ -0,0 +1,175 @@
...
+namespace IsConicalLimit
+
+variable {c}
+
+/-- If the enriched coyoneda functor preserves limits of `F` then
+any limit cone is conical. -/
+noncomputable
+def ofLimit (hc : IsLimit c) [hp : ∀ Y, PreservesLimit F (eCoyoneda V Y)] : IsConicalLimit V c where
+  isLimit := hc
+  isConicalLimit (Y : C) := (Classical.choice <| (hp Y).preserves hc)
```
Comment (joneugster) [inline Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:74]: @joelriou is this (together with the weakened assumption in `variable [HasLimit (F ⋙ eCoyoneda V X)]` below) what you meant in the other comment?

File: Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/CategoryTheory/Enriched/Ordinary/Limits/IsConicalLimit.lean]: - added reference.
- see other comment for continued discussion on preservation & existence of limits

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean]: took almost this but used 
` by rw [h]; infer_instance` instead of `this ▸ inferInstance`

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean (hunk 5 above)
Comment (joneugster) [reply Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:63]: thanks, I'll look into that that tomorrow

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:74]: Yes, but the more idiomatic way would be:
```lean
  isConicalLimit _ := isLimitOfPreserves _ hc
```

**Comment by joneugster** [comment]
Im closing this in favour of the reimplementation at #22921
